US08378104B2
Step G: 5-fluoro-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2-benzothiazole
A nitrogen degassed mixture of Pd2(dba)3 (60 mg, 0.065 mmol) and tricyclohexylphosphine (72 mg, 0.26 mmol) in 1,4-dioxane (40 mL) was stirred for 30 min. To this solution was added 7-bromo-5-fluoro-1,2-benzothiazole (0.50 g, 2.1 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (0.711 g, 2.8 mmol) and potassium acetate (0.34 g, 3.4 mmol) and the mixture was heated to 90° C. for 16 h. The reaction mixture was cooled to RT and filtered. The filtrate was evaporated under reduced pressure and the residue was purified by column chromatography (10% ethyl acetate:DCM) to afford 0.320 g (51%) of the title compound as a yellow-brown solid. 1H NMR (300 MHz, CDCl3): δ 1.41 (s, 12 H), 7.74-7.77 (m, 2H), 8.87 (s, 1H).

reactant | tricyclohexylphosphine | 0.26 mmol, 72 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | 7-bromo-5-fluoro-1,2-benzothiazole | 2.1 mmol, 0.50 g | BrC1=CC(=CC=2C=NSC21)F | C7H3BrFNS
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 2.8 mmol, 0.711 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 3.4 mmol, 0.34 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.065 mmol, 60 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-fluoro-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2-benzothiazole | 0.320 g, 51% | FC=1C=C(C2=C(C=NS2)C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2S
